US09303033B2
To 7-(cyclopropylamino)-5-(2-fluoropyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde 30 mg, 0.1 mmol) in EtOH (1 mL) was added piperidine (13 μL, 0.1 mmol), and thiazolidine-2,4-dione (12 mg, 0.1 mmol). The reaction was stirred at 80° C. for 2 hours. The solid formed was isolated by filtration, washed with water then ethanol. The recovered solid was further purified by washing with 20% methanol/dichloromethan to provide 9 mg of 5-((7-(cyclopropylamino)-5-(2-fluoropyridin-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)thiazolidine-2,4-dione (23%). LCMS (M+1=397)

reactant | 7-(cyclopropylamino)-5-(2-fluoropyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 0.1 mmol, 30 mg | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)C2=CC(=NC=C2)F | C15H12FN5O
reactant | piperidine | 0.1 mmol, 13 μL | N1CCCCC1 | C5H11N
reactant | thiazolidine-2,4-dione | 0.1 mmol, 12 mg | S1C(NC(C1)=O)=O | C3H3NO2S
solvent | EtOH | 1 mL | CCO | C2H6O
product | 5-((7-(cyclopropylamino)-5-(2-fluoropyridin-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)thiazolidine-2,4-dione | 9 mg, 23% | C1(CC1)NC1=CC(=NC=2N1N=CC2C=C2C(NC(S2)=O)=O)C2=CC(=NC=C2)F | C18H13FN6O2S
